US04670540
(12) Synthesis of Boc-IleGly-OH
Boc-IleGly-OEt (17.4 g, 55.5 mmole) was dissolved in methanol (60 ml), and 2N NaOH (33 ml, 66.6 mmole) was added dropwise thereto while cooling and stirring. The cooling bath was removed, and the solution was stirred for 1 hour at about 15° C. and then neutralized with 6N HCl. Methanol was distilled off, and the solution was adjusted to pH~2 and extracted with ethyl acetate. The thus-obtained ethyl acetate layer was washed with water and dried with MgSO4. Ethyl acetate was distilled off therefrom,, and the thus-obtained oily residue was crystalized with ethyl acetate/n-hexane to give the object product (15.5 g, 98%).

reactant | Boc-IleGly-OEt | 55.5 mmole, 17.4 g | N([C@@H]([C@@H](C)CC)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C15H28N2O5
reactant | NaOH | 66.6 mmole, 2N, 33 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | Boc-IleGly-OH | 15.5 g, 98% | N([C@@H]([C@@H](C)CC)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
